US07122543B2
5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-phenylbenzoic acid
Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-phenylbenzoate (349 mg, 0.8004 mmol) was dissolved in a mixed solution of a 1N aqueous solution of sodium hydroxide (10 ml) and 1,4-dioxane (20 ml) followed by stirring at room temperature for 16 hours. The reaction solution was diluted with water (100 ml), washed with ether, acidified with concentrated hydrochloric acid and extracted with ether. The extract was washed with water and dried and the solvent was evaporated therefrom to give the title compound (340 mg, 0.7819 mmol, 98%).

reactant | Methyl 5-(3,4,5,6-tetramethoxy-2-methylbenzyl)-2-phenylbenzoate | 0.8004 mmol, 349 mg | COC=1C(=C(CC=2C=CC(=C(C(=O)OC)C2)C2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C26H28O6
solvent | sodium hydroxide | 10 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 20 ml | O1CCOCC1 | C4H8O2
solvent | water | 100 ml | O | H2O
product | 5-(3,4,5,6-Tetramethoxy-2-methylbenzyl)-2-phenylbenzoic acid | 0.7819 mmol, 340 mg, 98% | COC=1C(=C(CC=2C=CC(=C(C(=O)O)C2)C2=CC=CC=C2)C(=C(C1OC)OC)OC)C | C25H26O6
